US06043248
Preparation of 6-chloro-2-(2-naphthylmethyl)thio-4-pyrimidine carbonitrile (Cpd 276)
6-hydroxy-2-(2-naphthylmethyl)thio-4-pyrimidine carboxaldehyde oxime (720 mg, 2.31 mmol), POCl3 (3 ml), and 2-picoline (0.5 ml) are heated to reflux for 2 hrs. The reaction mixture is poured onto ice/water, extracted thrice with ethyl acetate, dried with MgSO4, and concentrated in vacuo. The product is purified by chromatography (SiO2, ethyl acetate/hexane, 5/95): 524 mg (1.67 mmol, 73%), mp 120-121° C.

reactant | 6-hydroxy-2-(2-naphthylmethyl)thio-4-pyrimidine carboxaldehyde oxime | 2.31 mmol, 720 mg | OC1=CC(=NC(=N1)SCC1=CC2=CC=CC=C2C=C1)C=NO | C16H13N3O2S
reactant | POCl3 | 3 ml | O=P(Cl)(Cl)Cl | Cl3OP
reactant | 2-picoline | 0.5 ml | N1=C(C=CC=C1)C | C6H7N
product | 6-chloro-2-(2-naphthylmethyl)thio-4-pyrimidine carbonitrile | ClC1=CC(=NC(=N1)SCC1=CC2=CC=CC=C2C=C1)C#N | C16H10ClN3S
